US07365088B2
(i) 1H-Indazole-3,5-dicarboxylic acid 5-methyl ester
To a solution of 5 g 3-Formyl-1H-indazole-5-carboxylic acid methyl ester in 100 mL acetonitrile and 8 mL DMF a solution of 4.4 g NaH2PO4 in 90 mL water was added dropwise at RT within 1 h. Then a solution of 4.2 g NaClO2 (80%) in 90 mL water followed by 5.3 mL H2O2 (30%) was added dropwise at 0° C. After stirring for 16 h at RT the reaction mixture was cooled to 0° C. followed by addition of 180 mL half-concentrated aqueous hydrochloric acid. The precipitated product was collected by filtration to yield 2.3 g pure product. The filtrate was extracted with ethyl acetate (3×150 mL), the combined organic layers were dried over MgSO4. After removal of the solvent under reduced pressure further 3.42 g of product were obtained. The combined product fractions were used without further purification. Yield: 5.7 g.

reactant | 3-Formyl-1H-indazole-5-carboxylic acid methyl ester | 5 g | COC(=O)C=1C=C2C(=NNC2=CC1)C=O | C10H8N2O3
reactant | NaClO2 | 4.2 g | [O-]Cl=O.[Na+]
reactant | H2O2 | 5.3 mL | OO | H2O2
reactant | hydrochloric acid | 180 mL | Cl | ClH
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | 90 mL | O | H2O
solvent | water | 90 mL | O | H2O
product | 1H-Indazole-3,5-dicarboxylic acid 5-methyl ester | 2.3 g | COC(=O)C=1C=C2C(=NNC2=CC1)C(=O)O | C10H8N2O4
